US06294527B1
7-Methoxy-2-mercapto-4-oxo-4H-1-benzothiopyran (2.00 g, 8.92 mmol) was dissolved in DMF (15 ml) and gradually added with sodium hydride (505.8 mg, 11.59 mmol) over 30 minutes in the ice bath and under nitrogen atmosphere. After removal of the ice bath and stir for 12 hours, the solution was added with methyl iodide (0.83 ml, 13.37 mmol) and further stirred for 3 hours. The reaction liquid was injected into the cooled aqueous solution (100 ml) of saturated ammonium chloride. The precipitated crude crystals were filtrated and fully washed with water and dried in a desiccator under reduced pressure. The crude crystals were washed with the ether-hexane solution to obtain 1.77 g (yield: 83%) of 7-methoxy-2-methylthio-4-oxo-4H-1-benzothiopyran as light yellow powder.

reactant | 7-Methoxy-2-mercapto-4-oxo-4H-1-benzothiopyran | 8.92 mmol, 2.00 g | COC1=CC2=C(C(C=C(S2)S)=O)C=C1 | C10H8O2S2
reactant | sodium hydride | 11.59 mmol, 505.8 mg | [H-].[Na+]
reactant | methyl iodide | 13.37 mmol, 0.83 ml | CI | CH3I
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 7-methoxy-2-methylthio-4-oxo-4H-1-benzothiopyran | 1.77 g, yield: 83% | COC1=CC2=C(C(C=C(S2)SC)=O)C=C1 | C11H10O2S2
